US07074801B1
t-Butyl 4-(6-bromo-4-quinolyl)-1-piperazine carboxylate
A mixture of 243 mg 6-bromo-4-chloroquinoline, 373 mg t-butyl 1-piperazine carboxylate, 0.28 mL triethylamine and 10 mL dimethyl sulfoxide was stirred at 80° C. overnight. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated, washed twice with water and then with brine and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 282 mg of the title compound as a pale yellow oil.

reactant | 6-bromo-4-chloroquinoline | 243 mg | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | t-butyl 1-piperazine carboxylate | 373 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-(6-bromo-4-quinolyl)-1-piperazine carboxylate | 282 mg | BrC=1C=C2C(=CC=NC2=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22BrN3O2
